US07186715B2
4-[2-(1-Acetyl-piperidin-3-yloxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester
The title compound was prepared by using mitsonobu condition from 4-(2-hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester and 1-(3-Hydroxy-piperidin-1-yl)-ethanone.

reactant | 4-(2-hydroxy-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)O | C15H22N2O3
reactant | 1-(3-Hydroxy-piperidin-1-yl)-ethanone | OC1CN(CCC1)C(C)=O | C7H13NO2
product | 4-[2-(1-Acetyl-piperidin-3-yloxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)OC1CN(CCC1)C(C)=O | C22H33N3O4
